US04129556
(N,N'-Bis-(4-hydroxybenzyl)-1,2-diaminoethane)
24.16 g of a bisazomethine prepared from 2 mols of p-hydroxybenzaldehyde and 1 mol of ethylenediamine and with a melting point of 215°-216° C. (decomposition) are hydrogenated in 150 ml of glacial acetic acid with 0.5 g of 10% platinum/charcoal at 25° C. in a hydrogenation flask. After 24 hours no further H2 is taken up. The catalyst is filtered off and the filtrate is concentrated in a rotary evaporator. The residue is crystalline and is stirred with 90 ml of isopropanol at 60° C.; the crystals do not dissolve. They are filtered off at room temperature, washed with isopropanol, and dried at 80° C. in vacuo. Yield 30.65 g (86.8% of theory) of the diacetate of N,N'-bis-(4-hydroxybenzyl)-1,2-diaminoethan with a melting point of 152°-155° C. The NMR spectrum confirms the structure of the diacetate.

reactant | p-hydroxybenzaldehyde | 2 mols | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ethylenediamine | 1 mol | C(CN)N | C2H8N2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | platinum/charcoal | 0.5 g | [Pt] | Pt
product | N,N'-Bis-(4-hydroxybenzyl)-1,2-diaminoethane | OC1=CC=C(CNCCNCC2=CC=C(C=C2)O)C=C1 | C16H20N2O2
